US04337265
3-Acetyl-1,2-dihydrocyclohepta[b]pyrrol-2-one (5.6 g) was suspended in methanol (15 ml). A saturated solution of dry HCl in diethyl ether (10 ml) was added to the suspension. Sodium cyanoborohydride (11.3 g) was gradually added to the suspension which was maintained acidic by the simultaneous addition of more of the HCl solution. The reaction mixture was diluted with a saturated solution of NaCl in water and extracted with ethyl acetate. The extract was dried (Na2SO4) and evaporated to dryness. The residue was dissolved in chloroform and poured through a column of silica gel. Elution of the column with chloroform-methanol (98:2) gave 3-ethyl-1,2-dihydrocyclohepta[b]pyrrol-2-one; mp 166°-171° C.; nmr (CDCl3) δ1.2 (t, J=7 Hz, 3H), 2.65 (q, J=7 Hz, 2H), 7.1 (m, 5H), 12.0 (s, 1H).

reactant | 3-Acetyl-1,2-dihydrocyclohepta[b]pyrrol-2-one | 5.6 g | C(C)(=O)C1=C2C(NC1=O)=CC=CC=C2 | C11H9NO2
reactant | HCl | Cl | ClH
reactant | Sodium cyanoborohydride | 11.3 g | C(#N)[BH3-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | NaCl | [Na+].[Cl-]
solvent | water | O | H2O
product | 3-ethyl-1,2-dihydrocyclohepta[b]pyrrol-2-one | C(C)C1=C2C(NC1=O)=CC=CC=C2 | C11H11NO
